US07176310B1
4. 3-[5-(4-Fluorophenylcarbamoyl)pyrimidin-2-ylsulfanyl]propionic acid methyl ester
To a solution of 2-methanesulfinylpyrimidine-5-carboxylic acid (4-fluorophenyl)amide (50 mg, 0.18 mmol) in THF (0.9 mL) was added methyl-3-mercaptopropionate (40 μL, 0.36 mmol) followed by DBU (60 μL, 0.40 mmol). The solution was stirred for 1 h, diluted with 25% ethyl acetate/hexane and passed through a plug of SiO2 washing with 50% ethyl acetate/hexane. The filtrate was concentrated, and the resulting solids triturated with 20% ethyl acetate/hexane to afford 35.1 mg (58% yield) of the titled product as a white solid. ESI-MS m/z 336 (MH+), 334 (M−H)−.

reactant | 2-methanesulfinylpyrimidine-5-carboxylic acid (4-fluorophenyl)amide | 0.18 mmol, 50 mg | FC1=CC=C(C=C1)NC(=O)C=1C=NC(=NC1)S(=O)C | C12H10FN3O2S
reactant | methyl-3-mercaptopropionate | 0.36 mmol, 40 μL | COC(CCS)=O | C4H8O2S
reactant | DBU | 0.40 mmol, 60 μL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 0.9 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 3-[5-(4-Fluorophenylcarbamoyl)pyrimidin-2-ylsulfanyl]propionic acid methyl ester | 35.1 mg, 58% yield | COC(CCSC1=NC=C(C=N1)C(NC1=CC=C(C=C1)F)=O)=O | C15H14FN3O3S
